### PR TITLE
[Merged by Bors] - feat: more API specific to strict group homs

### PR DESCRIPTION
**Pull request by ADedecker**
* Move the section of `Topology.Maps.Strict.Basic` about group homs to a new file `Topology.Maps.Strict.Group`
* add more criterions for strictness of group homs
* the first isomorphism theorem holds for strict group homs, yielding a [ContinuousMulEquiv](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Algebra/ContinuousMonoidHom.html#ContinuousMulEquiv)
* various tweaks to namespaces and variables throughout the two files.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Maps/Strict/Basic.lean [hunk 1]
```diff
@@ -80,7 +67,7 @@ theorem isStrictMap_iff_isHomeomorph_quotientKerEquivRange :
 
 /-- The homeomorphism `Quotient (Setoid.ker f) ≃ₜ Set.range f` given by a strict map `f`.
 This is the homeomorphism obtained from the first isomorphism theorem. -/
-noncomputable def Homeomorph.quotientKerEquivRange (hf : IsStrictMap f) :
+noncomputable def _root_.Homeomorph.quotientKerEquivRange (hf : IsStrictMap f) :
```
Comment (themathqueen) [inline Mathlib/Topology/Maps/Strict/Basic.lean:69]: can you add deprecations for the old names `Topology.*`

Comment (ADedecker) [reply Mathlib/Topology/Maps/Strict/Basic.lean:69]: Unfortunately I think they are just likely to cause ambiguities with the correctly named lemmas when `Topology` is opened :/

File: Mathlib/Topology/Maps/Strict/Basic.lean
Comment (themathqueen) [inline Mathlib/Topology/Maps/Strict/Basic.lean]: can you change this to `{f : X -> Y}` and then add `variable (f) in` for the definition, since it's the only one that needs it to be explicit?

File: Mathlib/Topology/Maps/Strict/Basic.lean (hunk 1 above)
Comment (themathqueen) [reply Mathlib/Topology/Maps/Strict/Basic.lean:69]: I think one way around that would be to protect the deprecations?

File: Mathlib/Topology/Maps/Strict/Group.lean [hunk 2]
```diff
@@ -0,0 +1,105 @@
...
+/-- A group homomorphism is strict if and only if its `QuotientGroup.kerLift` is an embedding. -/
+@[to_additive /-- An additive group homomorphism is strict if and only if its
+`QuotientAddGroup.kerLift` is an embedding. -/]
+protected lemma isStrictMap_iff_isEmbedding_kerLift :
+    IsStrictMap f ↔ IsEmbedding (kerLift f) := by
+  -- Note: `G ⧸ MonoidHom.ker f` and `G ⧸ Setoid.ker f` are not definitionally equal, so
+  -- using `Topology.isStrictMap_iff_isEmbedding_kerLift` is too painful here.
+  simp_rw [isEmbedding_iff_isStrictMap_injective, kerLift_injective, and_true,
+    (isQuotientMap_mk _).isStrictMap_iff]
+  rfl
```
Comment (themathqueen) [inline Mathlib/Topology/Maps/Strict/Group.lean:48]: what do you think about adding, so you can use simp here directly instead of rfl
```lean
@[simp] lemma QuotientGroup.kerLift_comp_mk {G H} [Group G] [Group H] (f : G →* H) :
    kerLift f ∘ QuotientGroup.mk = f := rfl
```

Comment (themathqueen) [reply Mathlib/Topology/Maps/Strict/Group.lean:48]: meh, nevermind, don't think it's worth it

File: Mathlib/Topology/Maps/Strict/Basic.lean (hunk 1 above)
Comment (ADedecker) [reply Mathlib/Topology/Maps/Strict/Basic.lean:69]: You're right. Sometimes it's not enough, but here it seems to work well.

File: Mathlib/Topology/Maps/Strict/Group.lean (hunk 2 above)
Comment (ADedecker) [reply Mathlib/Topology/Maps/Strict/Group.lean:48]: We don't have it for any of the `kerLift`s, so I'd rather not touch this now :sweat_smile:

File: Mathlib/Topology/Maps/Strict/Group.lean [hunk 3]
```diff
@@ -0,0 +1,105 @@
...
+  rw [← Φ.comp_isOpenQuotientMap_iff, eq, MonoidHom.coe_prodMap, isOpenQuotientMap_prodMap_iff]
+
+/-- The product (in the sense of `Prod.map`) of strict group homomorphisms is strict. -/
+@[to_additive isStrictMap_prodMap /-- The product (in the sense of `Prod.map`) of strict additive
+group homomorphisms is strict. -/]
+protected lemma isStrictMap_prodMap (hf : IsStrictMap f)
+    (hg : IsStrictMap g) : IsStrictMap (f.prodMap g) :=
+  MonoidHom.isStrictMap_prodMap_iff.mpr ⟨hf, hg⟩
+
+-- TODO Add the lemma `isStrictMap_piMap` once `MonoidHom.piMap` has been defined.
```
Comment (themathqueen) [inline Mathlib/Topology/Maps/Strict/Group.lean]: usually it's `TODO:`
```suggestion
-- TODO: Add the lemma `isStrictMap_piMap` once `MonoidHom.piMap` has been defined.
```

File: Mathlib/Topology/Maps/Strict/Group.lean [hunk 4]
```diff
@@ -0,0 +1,105 @@
...
+  simp_rw [isHomeomorph_iff_isStrictMap_bijective, EquivLike.bijective, and_true,
+    (isQuotientMap_mk _).isStrictMap_iff, IsEmbedding.subtypeVal.isStrictMap_iff]
+  rfl
+
+variable {f} in
+/-- The isomorphism of topological groups `G ⧸ f.ker ≃ f.range` given by a strict group
+homomorphism `f`. This is an avatar of the first isomorphism theorem. -/
+@[to_additive /-- The isomorphism of topological additive groups `G ⧸ f.ker ≃ f.range` given by a
+strict additive group homomorphism `f`. This is an avatar of the first isomorphism theorem. -/]
+noncomputable def _root_.ContinuousMulEquiv.quotientKerEquivRange
```
Comment (themathqueen) [inline Mathlib/Topology/Maps/Strict/Group.lean:66]: do you want to add some basic API for this?
(like `toMulEquiv_`, `toHomeomorph_`, `_apply`, etc...)

Comment (ADedecker) [reply Mathlib/Topology/Maps/Strict/Group.lean:66]: One thing is that `QuotientGroup.quotientKerEquivRange` has no API, so I'm not sure what's the best here. I'm tempted to say "let's not flood Mathlib with API if we're not sure it's useful", but maybe I'm just lazy :sweat_smile: 

I'll grab something to eat before I pass out, and then maybe I'll have a clearer view here.

Comment (ADedecker) [reply Mathlib/Topology/Maps/Strict/Group.lean:66]: Thinking about it a bit more, I argue "let's not add API for a more specific version if the more general one doesn't have any".

File: Mathlib/Topology/Maps/Strict/Group.lean [hunk 5]
```diff
@@ -0,0 +1,105 @@
...
+  in our context is that, unlike `IsQuotientMap`, `IsOpenQuotientMap` is stable under product.
+-/
+
+@[expose] public section
+
+open Function Set Topology QuotientGroup
+
+namespace MonoidHom
+
+variable {G H G' H' : Type*} [Group G'] [Group H'] [Group G] [Group H] (f : G →* H) (g : G' →* H')
```
Comment (themathqueen) [inline Mathlib/Topology/Maps/Strict/Group.lean]: how about we make `f` and `g` implicit here, since everything in the file is an iff?

**Review by themathqueen — COMMENTED** [review]
Thanks!

maintainer merge

**Comment by sgouezel** [comment]
bors r+
Thanks!
